US04398939
To 34 g of lithium 4-methyl-3-thiophenesulfinate in 220 ml of water cooled to 10° C. was added a suspension of 26.7 g of N-chlorosuccinimide in 80 ml of 2-propanol portionwise during 5 minutes. An additional 75 ml of 2-propanol was added to dissolve the reagents and the mixture was stirred for 70 minutes at 20° C. A large excess (1 liter) of water was then added and the mixture was extracted with methylene chloride 3 times. The methylene chloride portions were combined, dried over sodium sulfate and the solvent removed in vacuo to yield 4-methyl-3-thiophenesulfonyl chloride. This product was dissolved in 100 ml of tetrahydrofuran and 70 ml of concentrated aqueous ammonia was then added, and the mixture stirred overnight. Concentration of the resultant solution in vacuo and dilution of the residue with water yielded a solid which was filtered, washed with water and stirred with hot 1-chlorobutane, cooled and filtered to yield 14 g of the desired solid compound, m.p. 73°-85°.

reactant | lithium 4-methyl-3-thiophenesulfinate | 34 g | CC=1C(=CSC1)S(=O)[O-].[Li+]
reactant | N-chlorosuccinimide | 26.7 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | water | 220 ml | O | H2O
solvent | 2-propanol | 80 ml | CC(C)O | C3H8O
solvent | water | 1 liter | O | H2O
solvent | 2-propanol | 75 ml | CC(C)O | C3H8O
product | 4-methyl-3-thiophenesulfonyl chloride | CC=1C(=CSC1)S(=O)(=O)Cl | C5H5ClO2S2
